US06492403B1
Using a procedure similar to Example 208, step (a), 74.4 mg (0.36 mmol) of methyl 4-amino-5-methylthiothiophene-2-carboxylate was allowed to react with 155.5 mg (2 equiv, 0.72 mmol) of 3-fluoro-4-phenylphenyl boronic acid to give 50.6 mg (41.6%) of methyl 4-[(3-fluoro-4-phenylphenyl)amino]-5-methylthiothiophene-2-carboxylate. 1H NMR (CDCl3, 400 MHz) δ2.44 (s, 3H), 3.91 (s, 3H), 6.19 (s, 1H), 6.78-6.86 (m, 2H), 7.32-7.39 (m, 2H), 7.73-7.47 (m, 2H), 7.55 (d, 1H, J=6.9 Hz), 7.82 (s, 1H).

reactant | methyl 4-amino-5-methylthiothiophene-2-carboxylate | 0.36 mmol, 74.4 mg | NC=1C=C(SC1C)C(=S)OC | C7H9NOS2
reactant | 3-fluoro-4-phenylphenyl boronic acid | 0.72 mmol, 155.5 mg, 2 equiv | FC=1C=C(C=CC1C1=CC=CC=C1)B(O)O | C12H10BFO2
product | methyl 4-[(3-fluoro-4-phenylphenyl)amino]-5-methylthiothiophene-2-carboxylate | 50.6 mg, 41.6% | FC=1C=C(C=CC1C1=CC=CC=C1)NC=1C=C(SC1C)C(=S)OC | C19H16FNOS2
